US05929085
(b) 3-Ethyl-2-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride
To a stirred solution of 3-ethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride (4.0 g, 8 mmol) in formaldehyde (15 ml) was added formic acid (7.0 ml) and the reaction was then refluxed for 1.5 h. The reaction was cooled and poured into water (300 ml) and made basic with 50% NaOH. The aqueous phase was then extracted with dichloromethane (3×100 ml), and the organic phase dried over MgSO4. Evaporation of the solvent yielded a crude oil. A hydrochloride salt was made from ethanol-HCl, (1.8 g), m.p. 240-241° C.

reactant | 3-ethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 8 mmol, 4.0 g | Cl.C(C)C1NCC2=CC(=CC=C2C1)[N+](=O)[O-]
reactant | formic acid | 7.0 ml | C(=O)O | CH2O2
reactant | NaOH | [OH-].[Na+]
reactant | ethanol-HCl | 1.8 g | Cl.C(C)O
solvent | formaldehyde | 15 ml | C=O | CH2O
solvent | water | 300 ml | O | H2O
product | 3-Ethyl-2-methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.C(C)C1N(CC2=CC(=CC=C2C1)[N+](=O)[O-])C | InChI=1S/C12H16N2O2.ClH/c1-3-11-6-9-4-5-12(14(15)16)7-10(9)8-13(11)2;/h4-5,7,11H,3,6,8H2,1-2H3;1H
